US08097754B2
Preparation of (S)-Pregabalin
A three-necked flask equipped with an addition funnel, thermometer pocket, drying tube and a mechanical stirrer, was charged with acetone (200 ml), (3S)-5-methyl-3-(2-oxo-2{[(1S)-1-phenylethyl]amino}ethyl) hexanoic acid compound (50 g, 0.172 mole), and with triethylamine (21.7 g, 0.215 mole), and cooled to −10° to −20° C. followed by addition of solution of methyl chloroformate (18.67 g, 0.196 mole in 50 ml acetone). The mixture was stirred for 1 hour at a temperature of −10° to −20° C., followed by addition of solution of sodium azide (27.92 g, 0.429 mole in water). The resulted slurry was maintained for 1 hour at −10° to −20° C., quenched over ice water followed by extracting the mass with sufficient amount of toluene. The toluene layer was slowly added over a refluxing mixture of toluene and methyl alcohol, followed by stirring for 2 to 4 hours followed by stripping of solvents results into an oily mass. 4N hydrochloric acid (600 ml), phenol (2.42 g, 0.0257 mole), sodium chloride (40.2 g, 0.687 mole) was added to the oily mass and was heated to 105°-110° C. for 15-24 hours, and then cooled to room temperature, i.e., about 20° to about 25° C. An aqueous 40% sodium hydroxide solution was added in an amount sufficient to provide a pH of 1. The solution was then extracted with 150 ml of iso-butanol, the organic layer was separated, and Bu3N was added in an amount sufficient to provide a pH of 4-4.5. The (S)-Pregabalin was precipitated, filtered, and washed with 25 ml of iso-butanol which on crystallization from isobutanol water mixture resulted in (S)-Pregabalin as white crystals in a 67% yield. Purity: 99.9% area by HPLC.

reactant | (3S)-5-methyl-3-(2-oxo-2{[(1S)-1-phenylethyl]amino}ethyl) hexanoic acid | 0.172 mole, 50 g | CC(C[C@H](CC(=O)O)CC(N[C@@H](C)C1=CC=CC=C1)=O)C | C17H25NO3
reactant | triethylamine | 0.215 mole, 21.7 g | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 0.196 mole, 50 ml, 18.67 g | ClC(=O)OC | C2H3ClO2
reactant | sodium azide | 0.429 mole, 27.92 g | [N-]=[N+]=[N-].[Na+]
reactant | hydrochloric acid | 4N, 600 ml | Cl | ClH
reactant | phenol | 0.0257 mole, 2.42 g | C1(=CC=CC=C1)O | C6H6O
reactant | sodium chloride | 0.687 mole, 40.2 g | [Cl-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | (S)-Pregabalin | 67% yield | CC(C)C[C@@H](CC(=O)O)CN | C8H17NO2
